US04943574
A solution of 10 parts of 6-[chloro[4-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)phenyl]methyl]-1-methyl-1H-benzotriazole and 10 parts of 1H-imidazole in 80 parts of acetonitrile was stirred for 4 hours at reflux temperature. The reaction mixture was evaporated and the product was extracted with ethyl acetate. The extract was washed with a diluted potassium carbonate solution, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated, yielding 7.1 parts (65.6%) of 6-[[4-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)phenyl](1H-imidazol-1-yl)methyl]-1-methyl-1H-benzotriazole as a residue (int. 231).

reactant | 6-[chloro[4-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)phenyl]methyl]-1-methyl-1H-benzotriazole | ClC(C=1C=CC2=C(N(N=N2)C)C1)C1=CC=C(C=C1)C=1OCC(N1)(C)C | C19H19ClN4O
reactant | 1H-imidazole | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-[[4-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)phenyl](1H-imidazol-1-yl)methyl]-1-methyl-1H-benzotriazole | 65.6% | CC1(N=C(OC1)C1=CC=C(C=C1)C(C=1C=CC2=C(N(N=N2)C)C1)N1C=NC=C1)C | C22H22N6O
